US04025630
5,5-Dimethyl-10-[5-(piperidino)valeryloxy]-8-(4-fluorophenyl-1-methylbutyl)-2-(2-propynyl)-1,2,3,4-tetrahydro-5H[1]benzopyrano[3,4-d]pyridine hydrochloride
A mixture of 2.4 g. (6.06 mm.) of 5,5-dimethyl-10-hydroxy-8-(4-fluorophenyl-1-methylbutyl)-2-(2-propynyl)-1,2,3,4-tetrahydro-5H[1]benzopyrano[3,4-d]pyridine, 1.35 g. (6.06 mm.) of δ-piperidinovaleric acid hydrochloride and 1.30 g. (6.30 mm.) of dicyclohexylcarbodiimide in 100 ml. of methylene chloride are stirred at room temperature for 5 hours. The reaction mixture is cooled overnight in the refrigerator and the by-product of dicyclohexylurea removed by suction filtration. The mother liquor is evaporated and the residue dissolved in a mixture of methylene chloride/cyclohexane and allowed to stand in the cold for 2 hours. Gravity filtration separates the small amount of solid which appears, and the solvents are removed using a rotary evaporator. Crystallization from methylene chloride/diethyl ether yields the desired product.

reactant | 5,5-dimethyl-10-hydroxy-8-(4-fluorophenyl-1-methylbutyl)-2-(2-propynyl)-1,2,3,4-tetrahydro-5H[1]benzopyrano[3,4-d]pyridine | CC1(OC2=C(C(=CC(=C2)C(CCC)(C)C2=CC=C(C=C2)F)O)C2=C1CCN(C2)CC#C)C | C28H32FNO2
reactant | δ-piperidinovaleric acid hydrochloride | Cl.N1(CCCCC1)CCCCC(=O)O
reactant | dicyclohexylcarbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 5,5-Dimethyl-10-[5-(piperidino)valeryloxy]-8-(4-fluorophenyl-1-methylbutyl)-2-(2-propynyl)-1,2,3,4-tetrahydro-5H[1]benzopyrano[3,4-d]pyridine hydrochloride | Cl.CC1(OC2=C(C(=CC(=C2)C(CCC)(C)C2=CC=C(C=C2)F)OC(CCCCN2CCCCC2)=O)C2=C1CCN(C2)CC#C)C | InChI=1S/C38H49FN2O3.ClH/c1-6-19-38(5,28-14-16-30(39)17-15-28)29-25-33(43-35(42)13-9-12-23-40-21-10-8-11-22-40)36-31-27-41(20-7-2)24-18-32(31)37(3,4)44-34(36)26-29;/h2,14-17,25-26H,6,8-13,18-24,27H2,1,3-5H3;1H
